US04940710
1-Ethyl-7-(3-ethynyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 1.12 g of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.95 g of 3-ethynylpiperazine and 15 ml of pyridine is heated at 100° C. in a pressure bottle for 3 hours, then cooled and evaporated. The residue is purified by silica gel flash chromatography, eluting with chloroform:methanol:water:triethylamine (9:0.5:0.02:0.02), giving 200 mg of the desired product.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.12 g | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | 3-ethynylpiperazine | 1.95 g | C(#C)C1CNCCN1 | C6H10N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-7-(3-ethynyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 200 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C#C)F)=O)C(=O)O | C18H18FN3O3
